US05783580
The methyl 4-(3-acetylphenoxy)-6-dimethylamino-pyrimidin-5-yl-acetate obtained is dissolved in 500 ml methanol, and hydroxylamine hydrochloride (76 g, 1.1 mol) and sodium acetate (107 g, 1.3 mol) are added at 0° C. After stirring for 2 hours at room temperature the product is crystallized by adding water. Filtering and drying gives methyl 4-[3-(1-hydroximinoethyl)-phenoxy]-6-dimethylamino-pyrimidin-5-yl-acetate in form of yellowish crystals (292 g) having a m.p. of 113°-115° C.

reactant | methyl 4-(3-acetylphenoxy)-6-dimethylamino-pyrimidin-5-yl-acetate | C(C)(=O)C=1C=C(OC2=NC=NC(=C2CC(=O)OC)N(C)C)C=CC1 | C17H19N3O4
reactant | hydroxylamine hydrochloride | 1.1 mol, 76 g | Cl.NO
reactant | sodium acetate | 1.3 mol, 107 g | C(C)(=O)[O-].[Na+]
solvent | methanol | 500 ml | CO | CH4O
product | methyl 4-[3-(1-hydroximinoethyl)-phenoxy]-6-dimethylamino-pyrimidin-5-yl-acetate | N(O)=C(C)C=1C=C(OC2=NC=NC(=C2CC(=O)OC)N(C)C)C=CC1 | C17H20N4O4
